US07354920B2
c) (S,R) 1-Morpholin-2-yl-1-phenyl-2-(2-trifluoromethyl-phenyl)-ethanol
To a solution of 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethyl-phenyl)-ethanol (352 mg, 1 equiv.) in ethanol (15 mL) at room temperature under nitrogen atmosphere was added ammonium formate (507 mg g, 10 equiv.) followed by addition of palladium on charcoal (10%, 355 mg.). The reaction mixture was heated to reflux for 1 hour, cooled to room temperature and then filtered through Celite. All volatiles were evaporated under vacuum to give 265 mg of the title compound as white solid (94%). The enantiomeric mixture was resolved using chiral HPLC, to give the title compound as a single enantiomer. 1H NMR (300 MHz, CDCl3) δ: 2.25-2.30 (m, 1H), 2.56-2.64 (m, 1H), 2.75-2.87 (m, 2H), 3.18 (d, 1H, J=14.88 Hz), 3.71-3.81 (m, 2H), 3.89 (d, 1H, J=14.88 Hz), 4.02-4.05 (m, 1H), 6.83-6.86 (m, 1H), 7.09-7.34 (m, 7H), 7.53-7.55 (m, 1H) ppm. LCMS (12 minute method) [M+H]+=352 @ Rt 4.73 min. single peak.

reactant | 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethyl-phenyl)-ethanol | 352 mg, 1 equiv. | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)C(F)(F)F)(O)C1=CC=CC=C1 | C26H26F3NO2
reactant | ammonium formate | 507 mg, 10 equiv. | C(=O)[O-].[NH4+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 355 mg | [Pd] | Pd
product | (S,R) 1-Morpholin-2-yl-1-phenyl-2-(2-trifluoromethyl-phenyl)-ethanol | 265 mg, 94% | N1C[C@@H](OCC1)[C@@](CC1=C(C=CC=C1)C(F)(F)F)(O)C1=CC=CC=C1 | C19H20F3NO2
